US05227389
1-(2-Ethoxyethyl)-4-cyano-4-phenyl-piperidine
The title compound was prepared as described in Example I 2 from 4-cyano-4-phenylpiperidine and 2-bromoethyl ethyl ether excluding KI: Reaction time under reflux 6 hours. The compound boiled at 130°-135°/0.005 mm Hg.

reactant | 4-cyano-4-phenylpiperidine | C(#N)C1(CCNCC1)C1=CC=CC=C1 | C12H14N2
reactant | 2-bromoethyl ethyl ether | C(C)OCCBr | C4H9BrO
product | 1-(2-Ethoxyethyl)-4-cyano-4-phenyl-piperidine | C(C)OCCN1CCC(CC1)(C1=CC=CC=C1)C#N | C16H22N2O
